US07183287B2
Step 1: Preparation of methyl 3-[4-[(2,4-difluorobenzyl)oxy]-5-iodo-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate
To a suspension of methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate (2.53 g, 6.55 mmol) and dichloroacetic acid (0.27 mL, 3.27 mmol) in acetonitrile (20 mL) was added N-iodosuccinimide (1.62 g, 7.20 mmol). Stirred at ambient temperature for 3.5 h. Cooled reaction mixture (0° C.), filtered solid, washed with cold acetonitrile, and dried in vacuo overnight. Obtained product as white solid (2.72 g, 81%). 1H NMR (CD3OD/400 MHz) δ8.24 (s, 1H), 8.07 (m, 1H), 7.93 (s, 1H), 7.63 (q, 1H, J=8.4 Hz), 7.54 (d, 1H, J=8.0 Hz), 7.01 (t, 2H, J=8.4 Hz), 5.57 (s, 2H), 3.90 (s, 3H), 2.19 (s, 3H). ESHRMS m/z 513.0143 (M+H calculated for C20H16F2IN2O4 requires 513.0117).

reactant | methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate | 6.55 mmol, 2.53 g | FC1=C(COC=2N=CN(C(C2)=O)C=2C=C(C(=O)OC)C=CC2C)C=CC(=C1)F | C20H16F2N2O4
reactant | dichloroacetic acid | 3.27 mmol, 0.27 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | N-iodosuccinimide | 7.20 mmol, 1.62 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 3-[4-[(2,4-difluorobenzyl)oxy]-5-iodo-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate | FC1=C(COC=2N=CN(C(C2I)=O)C=2C=C(C(=O)OC)C=CC2C)C=CC(=C1)F | C20H15F2IN2O4
